US07935716B2
200 mg of 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylic acid was dissolved in 3 ml of acetonitrile, and 162 mg of carbonyldiimidazole was added to this. The mixture was stirred for 1 hour under heat refluxing condition, then, 114 mg of 2-amino-4-methylthiazole was added, and the resulting mixture was further stirred for 1 hour under heat refluxing condition. Thereafter, the reaction mixture was cooled to room temperature. As a result, a crystal was produced. The produced crystal was collected by filtration, to obtain 90 mg of 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-N-(4-methyl-2-thiazol yl)-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 31) represented by the formula:

reactant | 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 200 mg | FC=1C(=C(C(N(C1C)C)=O)C(=O)O)O | C8H8FNO4
reactant | carbonyldiimidazole | 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-4-methylthiazole | 114 mg | NC=1SC=C(N1)C | C4H6N2S
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 5-fluoro-1,6-dimethyl-4-hydroxy-2-oxo-N-(4-methyl-2-thiazol yl)-1,2-dihydropyridine-3-carboxamide | 90 mg | FC=1C(=C(C(N(C1C)C)=O)C(=O)NC=1SC=C(N1)C)O | C12H12FN3O3S
